US04249015
Methyl 2,4,4-trimethyl-1-cyclohexene-1-carboxylate (0.5 g; 2.75 m. moles) was added to 8% aqueous sodium hydroxide solution (5 ml) and the mixture was heated under reflux for a period of 24 hours. The solution was washed with light petroleum (b.p. 60°-80° C.), acidified with dilute hydrochloric acid and extracted three times with ether. The combined extracts were dried (MgSO4) and evaporated to give a crystalline product (0.373 g; 82%) which was recrystallized from aqueous methanol to give 2,4,4-trimethyl-1-cyclohexene-1-carboxylic acid (0.3 g; 66%), m.p. 108°-110° C., (N.M.R.: δ0.92 (s,6,CH3 --C--CH3), 2.05 (b,3,C=C--CH3)).

reactant | Methyl 2,4,4-trimethyl-1-cyclohexene-1-carboxylate | 0.5 g | CC1=C(CCC(C1)(C)C)C(=O)OC | C11H18O2
reactant | sodium hydroxide | 5 ml | [OH-].[Na+]
product | 2,4,4-trimethyl-1-cyclohexene-1-carboxylic acid | 0.3 g, 66% | CC1=C(CCC(C1)(C)C)C(=O)O | C10H16O2
